US07786132B2
(i) (E)-1-(Benzo[b]thiophen-2-yl)-3-(dimethylamino)prop-2-en-1-one
A solution of 1-(benzo[b]thiophen-2-yl)ethanone (1 g) in dimethoxy-N,N-dimethyl-methanamine (10 mL) was refluxed for 6 h and then cooled to rt. The precipitate was filtered and washed with diethyl ether to afford the title compound (1.1 g, 84%).

reactant | 1-(benzo[b]thiophen-2-yl)ethanone | 1 g | S1C2=C(C=C1C(C)=O)C=CC=C2 | C10H8OS
reactant | dimethoxy-N,N-dimethyl-methanamine | 10 mL | COC(N(C)C)OC | C5H13NO2
product | (E)-1-(Benzo[b]thiophen-2-yl)-3-(dimethylamino)prop-2-en-1-one | 1.1 g, 84% | S1C2=C(C=C1C(\C=C\N(C)C)=O)C=CC=C2 | C13H13NOS
